US08314110B2
2. Preparation of 3-(2-chloroethyl)-2-methyl-9-hydroxy-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one
At room temperature, 3-(2-chloroethyl)-2-methyl-9-benzyloxy-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one 4.0 g (0.0122 mole) was charged into a 250 mL three-necked bottle, 80 mL methanol was added, and then concentrated hydrochloric acid (about 25 drops) was added dropwise with stirring to adjust pH to 3.0. After the dissolution was completed, 1.8 g of wet 5% Pd—C (water content: 56%) (W/W: 10/1) was added, argon gas was fed to exchange atmosphere for three times, hydrogen gas was fed to exchange atmosphere for three times, the reaction was conducted at 27° C. for about 36 hours, and TLC (ethyl ether:n-hexane:methanol:triethylamine=2 mL:0.5 mL:6 drops:6 drops) was used to detect the debenzylated product. The reaction was stopped after all starting materials were consumed.

reactant | 3-(2-chloroethyl)-2-methyl-9-benzyloxy-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one | 0.0122 mole, 4.0 g | ClCCC1=C(N=C2N(C1=O)CCCC2OCC2=CC=CC=C2)C | C18H21ClN2O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl ether | C(C)OCC | C4H10O
catalyst | hydrochloric acid | about 25 drops | Cl | ClH
catalyst | Pd—C | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
solvent | n-hexane | CCCCCC | C6H14
solvent | methanol | 80 mL | CO | CH4O
product | 3-(2-chloroethyl)-2-methyl-9-hydroxy-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)CCCC2O)C | C11H15ClN2O2
